US07507736B2
[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-[4-(2,2,2-trifluoro-ethanesulfonyl)-piperazin-1-yl]-methanone
The title compound was prepared in analogy to example 51, from [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride and 2,2,2-trifluoro-ethanesulfonyl chloride. Off-white solid. MS (m/z): 517.3 (M+H)+.

reactant | [5-(1-isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCNCC1
reactant | 2,2,2-trifluoro-ethanesulfonyl chloride | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
product | [5-(1-Isopropyl-piperidin-4-yloxy)-1H-indol-2-yl]-[4-(2,2,2-trifluoro-ethanesulfonyl)-piperazin-1-yl]-methanone | C(C)(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCN(CC1)S(=O)(=O)CC(F)(F)F | C23H31F3N4O4S
